US04532242
A mixture of 72 g (0.28 mole) of 2-benzylthio-4-hydroxy-6-n-propylpyrimidine (from Part A) and 100 ml of phosphorus oxychloride was heated at reflux for three hours, and was then allowed to cool to 20° C. After evaporating in vacuo the residue was poured into ice water with vigorous stirring. The mixture was extracted with three 75 ml portions of diethyl ether, and the extracts were dried over magnesium sulfate and evaporated to provide a yellow oil residue of 2-benzylthio-4-chloro-6-n-propylpyrimidine.

reactant | 2-benzylthio-4-hydroxy-6-n-propylpyrimidine | 0.28 mole, 72 g | C(C1=CC=CC=C1)SC1=NC(=CC(=N1)O)CCC | C14H16N2OS
reactant | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-benzylthio-4-chloro-6-n-propylpyrimidine | C(C1=CC=CC=C1)SC1=NC(=CC(=N1)Cl)CCC | C14H15ClN2S
